US07074800B1
A mixture of 4-chloro-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinazoline (100 mg, 0.31 mmol), (prepared as described for the starting material in Example 9), and 7-hydroxy-2,4-dimethylquinoline (64 mg, 0.36 mmol), (Chem. Berichte, 1903, 36, 4016), in DMF (3 ml) containing potassium carbonate (86 mg, 0.62 mmol) was heated at 90° C. for 3 hours. After cooling, the mixture was poured onto a column of silica and eluted with 2.5M ammonia in methanol/methylene chloride (5/95) to give 4-(2,4-dimethylquinolin-7-yloxy)-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinazoline (50 mg, 35%).

reactant | 4-chloro-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinazoline | 0.31 mmol, 100 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C16H20ClN3O2
reactant | 7-hydroxy-2,4-dimethylquinoline | 0.36 mmol, 64 mg | OC1=CC=C2C(=CC(=NC2=C1)C)C | C11H11NO
reactant | potassium carbonate | 0.62 mmol, 86 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-(2,4-dimethylquinolin-7-yloxy)-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinazoline | 50 mg, 35% | CC1=NC2=CC(=CC=C2C(=C1)C)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C27H30N4O3
